US09145380B2
a) 2-(4-Chloro-2-methoxy-phenyl)-ethenesulfonyl chloride
Thionyl chloride (8.1 mL, 111.19 mmol) was added dropwise at 0° C. to a solution of 2-(4-chloro-2-methoxy-phenyl)-ethenesulfonic acid (5.53 g, 22.24 mmol) in DMF (10 mL). The reaction mixture was stirred at RT for 3 h and then was poured onto crushed ice. Ethyl acetate (50 mL) was added to the mixture. The organic phase was separated, washed with brine (3×20 mL), dried over MgSO4 and concentrated under reduced pressure. The oily residue was purified on silica gel using hexane/ethyl acetate, 4:1 to give the target compound which was then recrystallized from pentane/diethyl ether to afford the title compound (2.30 g, 61% over 3 steps) as a white solid.

reactant | Thionyl chloride | 111.19 mmol, 8.1 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(4-chloro-2-methoxy-phenyl)-ethenesulfonic acid | 22.24 mmol, 5.53 g | ClC1=CC(=C(C=C1)C=CS(=O)(=O)O)OC | C9H9ClO4S
reactant | Ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-(4-Chloro-2-methoxy-phenyl)-ethenesulfonyl chloride | 2.30 g, 61% | ClC1=CC(=C(C=C1)C=CS(=O)(=O)Cl)OC | C9H8Cl2O3S
